datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][c:2]1[c:3]([H:15])[c:4]2[c:5]3[c:6]([c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]3[c:11]1[H:19])[C:12]([H:20])=[C:13]2[H:21])[H:14].[H:22]>>[C:0](#[C:1][c:2]1[c:3]([H:15])[c:4]2[c:5]3[c:6]([c:7]([H:16])[c:8][c:9]([H:18])[c:10]3[c:11]1[H:19])[C:12]([H:20])=[C:13]2[H:21])[H:14].[H:17][H:22],70.379064
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([c:18]1[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]([H:37])[c:23]1[H:38])[H:33])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:17]([C:16]([C:15]([H:30])([H:31])[H:32])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])([c:18]1[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]([H:37])[c:23]1[H:38])[H:33])[H:8])([H:6])[H:7],73.9731
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:16]([C:15]#[C:14][H:18])([C:17]([H:20])([H:21])[H:22])[H:19])[H:6],29.3717
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:5])[H:6],45.6056
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[S:9][H:16])[H:12])([H:10])[H:11]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:10])[H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[S:9][H:16],111.713
[C:0]([C:1]1[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:10])([H:11])[H:12]>>[C:0](=[C:1]1[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:11])[H:12].[H:10],278.369888
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:11])([H:12])[H:13].[O:21][O:22][H:23]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:12])[H:13].[H:11][O:21][O:22][H:23],58.2013
[C:5]([C:6](=[S:7])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([C:6](=[S:7])[H:10])([H:8])[H:9].[S:0]=[C:1][S:2][H:4],91.8806
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([C:10]([H:18])([H:19])[H:20])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])([H:11])([H:12])[H:13],57.781
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([C:12]([C:13](=[S:14])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11]([C:12]([C:13](=[S:14])[H:20])[H:19])([H:15])([H:16])[H:17],29.288
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][C:30]([H:31])([H:32])[H:33],57.630416
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])[H:5])[H:4],23.5978
[C:0](=[N:1][H:4])([H:2])[H:3].[H:5]>>[C:0]([N:1]([H:4])[H:5])([H:2])[H:3],52.049
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8])([H:6])[H:7],19.3719
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:20])[H:21])[H:19])=[C:14]([C:15]([H:23])([H:24])[H:25])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:14]([C:11]([C:10](=[C:9]([H:16])[H:17])[H:18])[C:12](=[C:13]([H:20])[H:21])[H:19])([C:15]([H:23])([H:24])[H:25])[H:22])[H:4],24.853
